US07851473B2
4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-[6-(trifluoromethyl)pyridin-3-yl]piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl [6-(trifluoromethyl)pyridin-3-yl]carbamate (200 mg, 0.593 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (146 mg, 0.593 mmol), diisopropylethylamine (0.207 ml, 1.19 mmol) and dimethylsulfoxide (4 ml) was stirred at 70° C. for 48 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of tetrahydrofuran, ethyl acetate and hexane to obtain the desired product (110 mg, 42.8%) as a solid.

reactant | 2,2,2-trichloroethyl [6-(trifluoromethyl)pyridin-3-yl]carbamate | 0.593 mmol, 200 mg | FC(C1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O)(F)F | C9H6Cl3F3N2O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.593 mmol, 146 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 1.19 mmol, 0.207 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-[6-(trifluoromethyl)pyridin-3-yl]piperazine-1-carboxamide | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1C=NC(=CC1)C(F)(F)F | C19H17F3N6OS
